US05359098
2-Cyclobutyl-6-[6-(4-hydroxypiperidinyl)hexoxy]-4H-1-benzopyran-4-one hydrochloride
The compound was prepared by a method similar to Example 11 from 2',5'-dihydroxyacetophenone, cyclobutanecarbonyl chloride, 1-bromo-6-chlorohexane, and 4-hydroxypiperidine: mp 111°-113° C.

reactant | 2',5'-dihydroxyacetophenone | OC1=C(C=C(C=C1)O)C(C)=O | C8H8O3
reactant | cyclobutanecarbonyl chloride | C1(CCC1)C(=O)Cl | C5H7ClO
reactant | 1-bromo-6-chlorohexane | BrCCCCCCCl | C6H12BrCl
reactant | 4-hydroxypiperidine | OC1CCNCC1 | C5H11NO
product | 2-Cyclobutyl-6-[6-(4-hydroxypiperidinyl)hexoxy]-4H-1-benzopyran-4-one hydrochloride | Cl.C1(CCC1)C=1OC2=C(C(C1)=O)C=C(C=C2)OCCCCCCN2CCC(CC2)O | InChI=1S/C24H33NO4.ClH/c26-19-10-13-25(14-11-19)12-3-1-2-4-15-28-20-8-9-23-21(16-20)22(27)17-24(29-23)18-6-5-7-18;/h8-9,16-19,26H,1-7,10-15H2;1H
